US08609656B2
In 5 mL of phosphorus oxychloride, 42 mg (0.164 mmol) of 1-(4-nitrophenyl)-1H-imidazo[4,5-c]pyridine 5-oxide was dissolved and the solution was stirred at 80° C. for 14 hours. Excess reagent was distilled under reduced pressure, and the residue was partitioned between ethyl acetate (10 mL×2) and a sodium hydrogencarbonate aqueous solution (10 mL). The combined organic layers were washed with a saturated sodium chloride solution, dried on anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was separated by a silica gel column (Si-10, a product of Kusano Co., Ltd., column 30 cm, dichloromethane:methanol=19:1) to obtain 45 mg (quantitative) of 4-chloro-1-(4-nitrophenyl)-1H-imidazo-[4,5-c]pyridine as a pale yellow solid.

reactant | 1-(4-nitrophenyl)-1H-imidazo[4,5-c]pyridine 5-oxide | 0.164 mmol, 42 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C=NC=2C=[N+](C=CC21)[O-] | C12H8N4O3
reactant | phosphorus oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1-(4-nitrophenyl)-1H-imidazo-[4,5-c]pyridine | 45 mg | ClC1=NC=CC2=C1N=CN2C2=CC=C(C=C2)[N+](=O)[O-] | C12H7ClN4O2
